US07456170B2
Preparation 11: Ethyl N-(tert-butoxycarbonyl)-N-methylglycinate
To a stirred solution of ethyl N-methylglycinate (10 g, 65.1 mmol) in dichloromethane (100 mL) was added triethylamine (9.1 mL, 65.3 mmol) (which caused a white precipitate to form). The solid was filtered, di-tert-butyl dicarbonate (14.08 g, 64.5 mmol) added to the filtrate and the reaction mixture was stirred for 66 hours. The reaction was then washed with water (2×100 mL), brine (5 mL) and dried over magnesium sulfate. Concentration in vacuo gave the product as an oil, 14.51 g (100%).

reactant | ethyl N-methylglycinate | 65.1 mmol, 10 g | CNCC(=O)OCC | C5H11NO2
reactant | triethylamine | 65.3 mmol, 9.1 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 64.5 mmol, 14.08 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | Ethyl N-(tert-butoxycarbonyl)-N-methylglycinate | C(C)(C)(C)OC(=O)N(CC(=O)OCC)C | C10H19NO4
